US04009175
In the manner given in Example 15, 8-methylthio-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with a cold mixture of N,N-dimethylhydroxylamine and sodium hydroxide in dimethylformamide to give 8-methylthio-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, N1 oxide.

reactant | 8-methylthio-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C18H15ClN4S
reactant | N,N-dimethylhydroxylamine | CN(O)C | C2H7NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-methylthio-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CSC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=CC=CC=C3)C1 | C20H21N5S
